**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 6
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/common/model_files/dut.cir

** Start testbenches

********************* dut testbench 24_0 *********************
v_gs_ac_24_0 g_24_0 g_ac_24_0 DC 0 AC 1
v_gs_24_0 g_ac_24_0 0 0.0
e_ds_24_0 d_24_0 0 v_sweep 0 1
v_s_24_0 s_24_0 0 0
v_bs_24_0 b_24_0 0 0.0
x_24_0 d_24_0 g_24_0 s_24_0 b_24_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 1.4431947161895884
alterparam dut a1 = 0.018645304338999927
alterparam dut a2 = 0.5112359778935153
alterparam dut acde = 1.086413460983139
alterparam dut ags = 0.5788110041100325
alterparam dut bin_lketa = 0.8861785557391357
alterparam dut bin_pketa = 0.5701933070399967
alterparam dut bin_ppclm = 0.7892654841020584
alterparam dut bin_prdsw = 0.36701671901018773
alterparam dut bin_pvsat = 0.499516206891241
alterparam dut bin_wk3 = 0.5410397847796555
alterparam dut bin_wk3b = 0.6868333404502761
alterparam dut bin_wketa = 0.2478702908970578
alterparam dut cf = 2.8262187655327265e-11
alterparam dut cgdl = 4.3938060046328393e-10
alterparam dut cgdo = 4.4302012040837903e-11
alterparam dut ckappas = 13.085440163833038
alterparam dut clc = 6.251592147691664e-08
alterparam dut cle = 0.6902776915670223
alterparam dut dlc = 2.2572115842399987e-08
alterparam dut drout = 0.722377034507734
alterparam dut dsub = 0.7976498953677987
alterparam dut dvt0 = 9.685356082012568
alterparam dut dvt0w = 1.4143159851187637
alterparam dut dvt1 = 0.8891410201458202
alterparam dut dvt1w = 135086.80763917425
alterparam dut dvt2 = 1*-0.05743271731389485
alterparam dut dvt2w = 1*-0.04265145915982113
alterparam dut dwg = 5.863316979119898e-08
alterparam dut eta0 = 0.23254511162801905
alterparam dut etab = 1*-0.2297925587010577
alterparam dut k1 = 0.3175713200123542
alterparam dut k2 = 1*-0.019958153869143326
alterparam dut k3 = 1*-61.50396249476035
alterparam dut k3b = 1*-12.583977851883034
alterparam dut keta = 1*-0.051088585771044526
alterparam dut lint = 9.581071537572283e-09
alterparam dut ll = 1.475801975813927e-14
alterparam dut lwl = 1*-8.820577426092909e-20
alterparam dut moin = 11.004669994778984
alterparam dut ndep = 4.743838120962094e+17
alterparam dut nfactor = 0.33666144426912353
alterparam dut ngate = 1.1567840932993933e+21
alterparam dut noff = 1.5049478217731738
alterparam dut pclm = 4.821649609963776e-05
alterparam dut pdiblc1 = 0.0006281712462661027
alterparam dut pdiblc2 = 7.227933566669357e-05
alterparam dut pdiblcb = 1*-0.2634818223628477
alterparam dut pvag = 3.6238849703317966
alterparam dut rdsw = 672.7850984059955
alterparam dut toxp = 3.2574117372770626e-09
alterparam dut u0 = 363.95417541938707
alterparam dut ua = 4.93185979989703e-10
alterparam dut ub = 5.079568353728005e-21
alterparam dut uc = 1*-1.0531977101979472e-09
alterparam dut voff = 1*-0.1323805941912009
alterparam dut voffcv = 0.17670229832658568
alterparam dut voffl = 1*-2.3529106860402435e-08
alterparam dut vsat = 52226.96351518756
alterparam dut vth0 = 0.5724708155430385
alterparam dut w0 = 6.142019274156526e-08
alterparam dut wint = 4.1097039241485834e-08
alterparam dut ww = 1*-7.144817080170692e-14
alterparam dut wwl = 1*-1.2614132083960973e-20
alterparam dut xpart = 0.672597321070525
reset
** Model parameters end

** Declare the vectors to save.
save i(e_ds_24_0) i(v_s_24_0)

** Write the header of the results file.
echo "vds,ciss_24_0" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_27_07_2024-00_09_23/simulation_files/ac_point_dc_sweep_6.csv

** Start the simulation loop.
compose values_list start=0.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 1000000.0 1000000.0

    let ciss_24_0 = (abs(imag(i(v_s_24_0))) + abs(imag(i(e_ds_24_0))))/2*pi*1000000.0

    echo "$val,$&ciss_24_0" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_27_07_2024-00_09_23/simulation_files/ac_point_dc_sweep_6.csv
end

.endc
********** End of control section **********

.end